US09034866B2
Synthesis of 4,8-difluoro-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, racemic ethyl 9-bromo-4,8-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give a diasteromeric mixture of ethyl 4,8-difluoro-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate. Following aminolysis of the ethyl ester (similar to as described in General Procedure M) a diasteromeric mixture of the titled compounds was obtained after purification by prep HPLC.

reactant | racemic ethyl 9-bromo-4,8-difluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)F)C=C1F | C14H10BrF2NO3S
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
reactant | ethyl 4,8-difluoro-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | FC1COC2=C(C=3N=C(SC31)C(=O)OCC)C=C(C(=C2)F)C#C[C@]2(C(N(CC2)C)=O)O | C21H18F2N2O5S
product | 4,8-difluoro-9-(((R)-3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | FC1COC2=C(C=3N=C(SC31)C(=O)N)C=C(C(=C2)F)C#C[C@]2(C(N(CC2)C)=O)O | C19H15F2N3O4S
